US07138425B2
2-[3-[6-(3-Carbamoylpiperidine-1-carbonyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 76 g), from 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester (50 mg, 0.09 mmol) and nipecotamide (18 mg, 0.14 mmol) the title compound was obtained (18 mg, 37%). 1H NMR (DMSO) δ 8.44(dd, 1H), 8.36(m, 2H), 8.29(dt, 1H), 7.95–7.76(m, 4H), 7.44(dd, 1H), 4.02(m, 1H), 3.18(bm, 2H), 2.87(bm, 2H), 1.70–1.38(m, 4H). MS 536.8 m/z (M−H)−.

reactant | 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(N(C(C2=CC1)=O)C1=CC(=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(=O)Cl)=O | C30H17ClN2O6
reactant | nipecotamide | 0.14 mmol, 18 mg | N1CC(C(=O)N)CCC1 | C6H12N2O
product | 2-[3-[6-(3-Carbamoylpiperidine-1-carbonyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(N)(=O)C1CN(CCC1)C(=O)C1=CC2=C(N=C(O2)C=2C=C(C=CC2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C29H22N4O7
